US05686564
1-Amino-4-(α,α-dimethylbenzyl)benzene-2-sulphonic acid (582.7 g) is suspended in water (41) in a 201 reaction vessel, cone. HCl is added (400 ml) and the mixture is stirred and heated at 65° C. for 20 minutes. The suspension is cooled to 20° C. and cone. HCl (400 ml) is added, followed by a solution of NaNO2 (138 g) in water (400 ml) dropwise, maintaining the temperature below 25° C. The resulting mixture is stirred at room temperature for a further 30 minutes. 50% Hypophosphorous acid (1.7 kg) is added dropwise over 30 minutes and the mixture is stirred at room temperature for 1 hour. The mixture is then warmed slowly until a temperature of 60° C. is reached and foaming has subsided to give a dark brown solution which is allowed to cool overnight and then filtered to remove a small amount of solid. The filtrate is evaporated to a volume of 41, neutralised by the gradual addition of sodium hydroxide pellets (950 g) to pH 10-11, water (31) is added and the solution warmed to 70° C. NaCl (800 g) is added and the product is allowed to crystallise. The solid is collected by filtration, washed with saturated brine and dried. After recrystallisation from 15% w/v NaCl(aq), the solid is stirred with ice water to remove salt, filtered and dried, stirred in acetone, filtered off and dried to give 3-(α,α-dimethylbenzyl)benzenesulphonic acid sodium salt. Further product is recovered from the washings.

reactant | 1-Amino-4-(α,α-dimethylbenzyl)benzene-2-sulphonic acid | 582.7 g | NC1=C(C=C(C=C1)C(C1=CC=CC=C1)(C)C)S(=O)(=O)O | C15H17NO3S
reactant | HCl | Cl | ClH
reactant | HCl | 400 ml | Cl | ClH
reactant | NaNO2 | 138 g | N(=O)[O-].[Na+]
reactant | Hypophosphorous acid | 1.7 kg | [PH2](=O)O | H3O2P
solvent | water | O | H2O
solvent | water | 400 ml | O | H2O
product | 3-(α,α-dimethylbenzyl)benzenesulphonic acid sodium salt | [Na+].CC(C1=CC=CC=C1)(C)C=1C=C(C=CC1)S(=O)(=O)[O-] | InChI=1S/C15H16O3S.Na/c1-15(2,12-7-4-3-5-8-12)13-9-6-10-14(11-13)19(16,17)18;/h3-11H,1-2H3,(H,16,17,18);/q;+1/p-1
